US08536203B2
To a stirred solution of ethyl 3-oxo-3-(2-(trifluoromethyl)pyridin-3-yl)propanoate (1.305 g, 5 mmol) in pyridine (25 mL) was added 2-bromo-1-(3,4-dimethoxy-5-nitrophenyl)ethanone (1.67 g, 5.5 mmol). The reaction mixture was heated to 70° C. and to stirred for 5 hours, then cooled to room temperature and poured onto 6 N aqueous HCl (100 mL). The precipitate was filtered off, washed with water and dried over P2O5 under vacuum. The solid was recrystallised from dichloromethane/isopropanol to give crude ethyl 4-(3,4-dimethoxy-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)furan-3-carboxylate, 1.00 g (43%).

reactant | ethyl 3-oxo-3-(2-(trifluoromethyl)pyridin-3-yl)propanoate | 5 mmol, 1.305 g | O=C(CC(=O)OCC)C=1C(=NC=CC1)C(F)(F)F | C11H10F3NO3
reactant | 2-bromo-1-(3,4-dimethoxy-5-nitrophenyl)ethanone | 5.5 mmol, 1.67 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])OC)OC | C10H10BrNO5
reactant | HCl | 6 N, 100 mL | Cl | ClH
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 4-(3,4-dimethoxy-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)furan-3-carboxylate | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C=1C(=C(OC1)C=1C(=NC=CC1)C(F)(F)F)C(=O)OCC | C21H17F3N2O7
